US06472386B1
Synthesis of Ethyl 3-[2-(3,4,5-Trimethoxyphenyl)thiazol-4-yl]propionate
Ethyl 3-[2-(3,4,5-trimethoxyphenyl)thiazol-4-yl]propenoate (1.65 g) was suspended in methanol (20 mL), 10% palladium on carbon (800 mg) was added to the suspension under an argon atmosphere, and the mixture was stirred at room temperature under a hydrogen amosphere. The reaction mixture was filtered, the filtrate was concentrated, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1 to 1:1) to obtain the title compound.

reactant | Ethyl 3-[2-(3,4,5-trimethoxyphenyl)thiazol-4-yl]propenoate | 1.65 g | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)C=CC(=O)OCC | C17H19NO5S
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 800 mg | [Pd] | Pd
product | Ethyl 3-[2-(3,4,5-Trimethoxyphenyl)thiazol-4-yl]propionate | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)CCC(=O)OCC | C17H21NO5S
